* NGSPICE file created from hx_loop_capacitor.ext - technology: ihp-sg13g2

.subckt hx_loop_capacitor SIGP VSS
X0 VSS SIGP VSS VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0.10252n ps=0.57616m w=7u l=7u
X1 VSS SIGP VSS VSS.t8 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X2 VSS SIGP VSS VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X3 VSS SIGP VSS VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X4 VSS SIGP VSS VSS sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X5 VSS SIGP VSS VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X6 VSS SIGP VSS VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X7 VSS SIGP VSS VSS.t6 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X8 VSS SIGP VSS VSS.t6 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X9 VSS SIGP VSS VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X10 VSS SIGP VSS VSS sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X11 VSS SIGP VSS VSS.t4 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X12 VSS SIGP VSS VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X13 VSS SIGP VSS VSS.t8 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X14 VSS SIGP VSS VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X15 VSS SIGP VSS VSS.t4 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
R0 VSS.t9 VSS 12.0653
R1 VSS.t4 VSS 15.9916
R2 VSS.t8 VSS 20.5265
R3 VSS.t3 VSS 19.6198
R4 VSS VSS.t6 19.62
R5 VSS.t5 VSS 15.9931
R6 VSS VSS.t7 9.64724
C0 SIGP VSS 96.6152f
.ends
